US08629147B2
4-(7-Ethyl-2,7-diaza-spiro[4.4]non-2-yl)-2-methyl-6-nitro-phenylamine
A suspension of 4-iodo-2-methyl-6-nitroaniline (1.39 g, 5 mmol), 2-ethyl-2,7-diaza-spiro[4.4]nonane (770 mg, 5 mmol), CuI (190.5 mg, 1.0 mmol), ethylene glycol (931 mg, 15 mmol) and K3PO4 (3.2 g, 15 mmol) in isopropanol (40 mL) was sealed and heated at 90° C. for 19 h. After cooled down to room temperature, the reaction mixture was concentrated. The residue was purified by chromatography (16:1 CH2Cl2/MeOH) to afford the title compound (910 mg, 60%). 1H NMR (CDCl3) δ 1.29 (t, J=8 Hz, 3H), 1.96-2.19 (4H), 2.24 (s, 3H), 2.77-3.01 (6H), 3.22-3.40 (4H), 5.78 (br s, 2H NH), 6.80 (s, 1H), 7.06 (s, 1H). ESI-MS m/z 305 (MH+).

reactant | 4-iodo-2-methyl-6-nitroaniline | 5 mmol, 1.39 g | IC1=CC(=C(N)C(=C1)[N+](=O)[O-])C | C7H7IN2O2
reactant | 2-ethyl-2,7-diaza-spiro[4.4]nonane | 5 mmol, 770 mg | C(C)N1CC2(CC1)CNCC2 | C9H18N2
reactant | ethylene glycol | 15 mmol, 931 mg | C(CO)O | C2H6O2
reactant | K3PO4 | 15 mmol, 3.2 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | isopropanol | 40 mL | C(C)(C)O | C3H8O
catalyst | CuI | 1.0 mmol, 190.5 mg | [Cu]I
product | 4-(7-Ethyl-2,7-diaza-spiro[4.4]non-2-yl)-2-methyl-6-nitro-phenylamine | 910 mg, 60% | C(C)N1CC2(CCN(C2)C2=CC(=C(C(=C2)[N+](=O)[O-])N)C)CC1 | C16H24N4O2
